### PR TITLE
Reimplements InverseLimit and its Topology

### PR DESCRIPTION
**Pull request by javierlcontreras**
Reimplemented with the trick of unbundled function classes taken from mathlib's DirectLimit

### CODE REVIEW

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,465 @@
...
+
+suppress_compilation
+
+variable {R ι : Type*} [Preorder ι] {G : ι → Type*}
+variable {T : ∀ ⦃i j : ι⦄, i ≤ j → Type*} {f : ∀ _ _ h, T h}
+variable [∀ i j (h : i ≤ j), FunLike (T h) (G j) (G i)] [InverseSystem (f · · ·)]
+variable [IsDirected ι (· ≤ ·)]
+
+variable (G f) in
+abbrev InverseLimit : Type _ := {x : (i : ι) → G i // ∀ i j h, f i j h (x j) = (x i)}
```
Comment (erdOne) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:26]:
```suggestion
def InverseLimit : Type _ := {x : (i : ι) → G i // ∀ i j h, f i j h (x j) = (x i)}
```
How much does this break? This should probably be a `def`.

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,465 @@
...
+    add_smul r s x := by ext i; simp [add_smul],
+    zero_smul x := by ext i; simp
+  }
+
+end Action
+
+section ToComponent
+
+variable (G f) in
+def to_component (i : ι) : InverseLimit G f → G i := fun (z : InverseLimit G f) ↦ z.1 i
```
Comment (erdOne) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:390]:
```suggestion
def toComponent (i : ι) : InverseLimit G f → G i := fun (z : InverseLimit G f) ↦ z.1 i
```
And below.

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,465 @@
...
+    MulDistribMulAction R (InverseLimit G f) where
+  smul_mul r x y := by
+    ext i; simp
+  smul_one r := by
+    ext i; simp
+
+instance [Semiring R] [∀ i, AddCommMonoid (G i)] [∀ i, Module R (G i)]
+    [∀ i j h, LinearMapClass (T h) R (G j) (G i)] :
+    Module R (InverseLimit G f) :=
+  have _ i j h : DistribMulActionHomClass (T h) R (G j) (G i) := inferInstance
```
Comment (erdOne) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:379]:
```suggestion
  letI _ i j h : DistribMulActionHomClass (T h) R (G j) (G i) := inferInstance
```

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,465 @@
...
+    [∀ i j h, MulActionHomClass (T h) R (G j) (G i)] :
+    DistribSMul R (InverseLimit G f) where
+  smul_add r x y := by
+    ext i
+    simp
+
+instance [Monoid R] [∀ i, AddMonoid (G i)] [∀ i, DistribMulAction R (G i)]
+    [∀ i j h, DistribMulActionHomClass (T h) R (G j) (G i)] :
+    DistribMulAction R (InverseLimit G f) :=
+  have _ i j h : MulActionHomClass (T h) R (G j) (G i) := inferInstance
```
Comment (erdOne) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:364]:
```suggestion
  letI _ i j h : MulActionHomClass (T h) R (G j) (G i) := inferInstance
```

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,465 @@
...
+    simp only
+    exact map_intCast' (f i j h) (map_one (f i j h)) n
+  ⟩
+  intCast_ofNat n := by ext i; simp
+  intCast_negSucc n := by ext i; simp
+  natCast_zero := Nat.cast_zero
+  natCast_succ := Nat.cast_succ
+
+omit [InverseSystem fun x1 x2 x3 ↦ ⇑(f x1 x2 x3)] [IsDirected ι fun x1 x2 ↦ x1 ≤ x2] [Nonempty ι] in
+theorem intCast_def  (n : ℤ) :
```
Comment (erdOne) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:273]:
```suggestion
theorem intCast_def (n : ℤ) :
```

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,465 @@
...
+variable {W : Type*} {M : ι → Type*} (maps : ∀ i, M i) [∀ i, FunLike (M i) W (G i)]
+
+variable (G f) in
+class InverseSystemHom where
+  comm : ∀ i j (h : i ≤ j) w, (f i j h) (maps j w) = maps i w
+
+variable [instInverseSystemHom : InverseSystemHom G f maps]
+
+variable (G f) in
+abbrev map_of_maps : W → InverseLimit G f :=
```
Comment (erdOne) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:429]:
```suggestion
abbrev lift : W → InverseLimit G f :=
```
and below

File: FLT/Deformations/Algebra/InverseLimit/Topology.lean [hunk 7]
```diff
@@ -0,0 +1,110 @@
...
+variable [instInverseSystemHom : InverseSystemHom G f maps]
+variable [TopologicalSpace W]
+variable (maps_cont : (i : ι) → Continuous (maps i))
+
+instance : TopologicalSpace (InverseLimit G f) := by
+  unfold InverseLimit
+  infer_instance
+
+omit [InverseSystem fun x1 x2 x3 ↦ ⇑(f x1 x2 x3)] [IsDirected ι fun x1 x2 ↦ x1 ≤ x2] in
+@[continuity]
```
Comment (erdOne) [inline FLT/Deformations/Algebra/InverseLimit/Topology.lean:33]:
```suggestion
@[fun_prop, continuity]
```
And below.

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,465 @@
...
+
+end ToComponent
+
+section Maps
+
+variable {W : Type*} {M : ι → Type*} (maps : ∀ i, M i) [∀ i, FunLike (M i) W (G i)]
+
+variable (G f) in
+class InverseSystemHom where
+  comm : ∀ i j (h : i ≤ j) w, (f i j h) (maps j w) = maps i w
```
Comment (erdOne) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:424]: I'm not entirely sure we want this to be a class. Maybe this should just be a regular def.

**Review by erdOne — COMMENTED** [review]
This looks very nice and basically good to go.
Some superficial comments:

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,472 @@
...
+We introduce all kinds of algebraic instances on `InverseLimit`, and specialize to the cases
+of modules and rings, showing that they are indeed limits in the respective categories.
+-/
+
+suppress_compilation
+
+variable {R ι : Type*} [Preorder ι] {G : ι → Type*}
+variable {T : ∀ ⦃i j : ι⦄, i ≤ j → Type*} {f : ∀ _ _ h, T h}
+variable [∀ i j (h : i ≤ j), FunLike (T h) (G j) (G i)] [InverseSystem (f · · ·)]
+variable [IsDirected ι (· ≤ ·)]
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:23]:
```suggestion
variable [∀ i j (h : i ≤ j), FunLike (T h) (G j) (G i)]
```
You never use these hypotheses. You put them at the beginning of the file and then spend literally the entire rest of the file not using them.

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,472 @@
...
+omit [InverseSystem fun x1 x2 x3 ↦ ⇑(f x1 x2 x3)] [IsDirected ι fun x1 x2 ↦ x1 ≤ x2] in
+@[ext]
+lemma ext_lemma (h : ∀ i, x.1 i = y.1 i) : x = y := by
+  unfold InverseLimit at *
+  ext i
+  exact h i
+
+section ZeroOne
+
+variable [Nonempty ι] [∀ i, One (G i)]
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:48]:
```suggestion
variable [∀ i, One (G i)]
```
You use the nonempty assumption once, so don't make it a variable.

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,472 @@
...
+
+end SMul
+
+@[to_additive] instance [Monoid R] [∀ i, MulAction R (G i)]
+    [∀ i j h, MulActionHomClass (T h) R (G j) (G i)] :
+    MulAction R (InverseLimit G f) where
+  one_smul x := by ext i; simp
+  mul_smul r x y := by ext i; simp [mul_smul]
+
+variable [Nonempty ι]
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:100]:
```suggestion
```

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,472 @@
...
+variable [∀ i j h, OneHomClass (T h) (G j) (G i)]
+
+@[to_additive] instance instOne : One (InverseLimit G f) where
+  one := ⟨fun _ ↦ 1, by simp⟩
+
+omit [InverseSystem fun x1 x2 x3 ↦ ⇑(f x1 x2 x3)] [IsDirected ι fun x1 x2 ↦ x1 ≤ x2] [Nonempty ι] in
+@[to_additive (attr := simp)] theorem one_def : (1 : InverseLimit G f).1 = 1 := rfl
+
+end ZeroOne
+section AddMul
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:59]:
```suggestion
end ZeroOne

section AddMul
```

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,472 @@
...
+
+section MulZeroOneClass
+
+variable [∀ i, MulZeroOneClass (G i)] [∀ i j h, MonoidWithZeroHomClass (T h) (G j) (G i)]
+
+instance : MulZeroOneClass (InverseLimit G f) where
+  zero_mul := zero_mul
+  mul_zero := mul_zero
+
+instance [∀ i, Nontrivial (G i)] : Nontrivial (InverseLimit G f) where
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:178]:
```suggestion
instance [Nontrivial ι] [∀ i, Nontrivial (G i)] : Nontrivial (InverseLimit G f) where
```
I think this is the only result where you need that iota is nontrivial.

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,472 @@
...
+  coe x := x.val
+
+omit [InverseSystem fun x1 x2 x3 ↦ ⇑(f x1 x2 x3)] [IsDirected ι fun x1 x2 ↦ x1 ≤ x2] in
+@[simp]
+lemma prop : ∀ (i j : _) (h : i ≤ j), f i j h (x.1 j) = x.1 i := x.2
+
+omit [InverseSystem fun x1 x2 x3 ↦ ⇑(f x1 x2 x3)] [IsDirected ι fun x1 x2 ↦ x1 ≤ x2] in
+@[ext]
+lemma ext_lemma (h : ∀ i, x.1 i = y.1 i) : x = y := by
+  unfold InverseLimit at *
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:42]: This is kind of a code smell. Why not make `InverseLimit_def`, prove it with `rfl`, and then `rw [InverseLimit_def]`?

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,472 @@
...
+def InverseLimit : Type _ := {x : (i : ι) → G i // ∀ i j h, f i j h (x j) = (x i)}
+
+namespace InverseLimit
+
+variable (i : ι) (x y z : InverseLimit G f)
+
+instance : CoeOut (InverseLimit G f) ((i : ι) → G i) where
+  coe x := x.val
+
+omit [InverseSystem fun x1 x2 x3 ↦ ⇑(f x1 x2 x3)] [IsDirected ι fun x1 x2 ↦ x1 ≤ x2] in
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:35]:
```suggestion
```
All these can go.

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,472 @@
...
+variable [instGroupG : ∀ i, Group (G i)] [∀ i j h, MonoidHomClass (T h) (G j) (G i)]
+
+@[to_additive] instance : Group (InverseLimit G f) where
+  inv x := ⟨x⁻¹, by simp⟩
+  div a b := ⟨a.1 / b.1, by simp⟩
+  zpow n x := ⟨x^n, by simp⟩
+  div_eq_mul_inv a b := by
+    ext i
+    simp only [mul_def, Pi.inv_apply]
+    change (a.1 i) / (b.1 i) = _
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:136]:
```suggestion
```
`exact` works up to definitional equality. Same comment nine lines later.

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,472 @@
...
+variable [instGroupWithZeroG : ∀ i, GroupWithZero (G i)]
+  [∀ i j h, MonoidWithZeroHomClass (T h) (G j) (G i)]
+
+instance : DivInvMonoid (InverseLimit G f) where
+  inv x := ⟨x.1⁻¹, by simp⟩
+  div x y := ⟨x.1 / y.1, by simp⟩
+  zpow n x := ⟨x.1 ^ n, by simp⟩
+  div_eq_mul_inv x y := by
+    ext i
+    change (x.1 i) / (y.1 i) = (x.1 i) * (y.1 i)⁻¹
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:214]:
```suggestion
```
The three `change`s here probably won't be needed either.

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,472 @@
...
+
+section AddMonoidWithOne
+
+variable [∀ i, AddMonoidWithOne (G i)] [∀ i j h, AddMonoidHomClass (T h) (G j) (G i)]
+  [∀ i j h, OneHomClass (T h) (G j) (G i)]
+
+instance : AddMonoidWithOne (InverseLimit G f) where
+  natCast n := ⟨n, by
+    intro i j h
+    change f i j h n = n
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:250]: Or here

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,472 @@
...
+section AddGroupWithOne
+
+variable [∀ i, AddGroupWithOne (G i)] [∀ i j h, AddMonoidHomClass (T h) (G j) (G i)]
+  [∀ i j h, OneHomClass (T h) (G j) (G i)]
+
+instance : AddGroupWithOne (InverseLimit G f) where
+  __ : AddGroup _ := inferInstance
+  intCast n := ⟨fun i ↦ n, by
+    intro i j h
+    simp only
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:272]:
```suggestion
```
It's only rewriting things which are true by rfl

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 20]
```diff
@@ -0,0 +1,472 @@
...
+    add_smul r s x := by ext i; simp [add_smul],
+    zero_smul x := by ext i; simp
+  }
+
+end Action
+
+section ToComponent
+
+variable (G f) in
+def toComponent (i : ι) : InverseLimit G f → G i := fun (z : InverseLimit G f) ↦ z.1 i
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:398]: My guess is that CI is now complaining that you didn't give this a docstring. When you do, can you please also mention at least one of the variants in the `toComponent` docstring (and hint at all of them if you don't mention them)? And can you face calling them the mathlib names i.e. `toComponentMonoidHom` etc?

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 21]
```diff
@@ -0,0 +1,472 @@
...
+  {
+    add_smul r s x := by ext i; simp [add_smul],
+    zero_smul x := by ext i; simp
+  }
+
+end Action
+
+section ToComponent
+
+variable (G f) in
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:397]:
```suggestion
variable (G f) in
/--
`toComponent G f i` is the canonical function from the inverse limit of the `G_j` to `G_i`. For the 
monoid homomorphism see `toComponentMonoidHom`, for the linear map see `toComponentLinearMap` etc. 
-/
```

File: FLT/Deformations/Algebra/InverseLimit/Basic.lean [hunk 22]
```diff
@@ -0,0 +1,472 @@
...
+
+variable {W : Type*} {M : ι → Type*} (maps : ∀ i, M i) [∀ i, FunLike (M i) W (G i)]
+
+variable (G f) in
+def InverseSystemHom := ∀ i j (h : i ≤ j) w, (f i j h) (maps j w) = maps i w
+
+variable (inverseSystemHom : InverseSystemHom G f maps)
+
+variable (G f) in
+abbrev lift : W → InverseLimit G f :=
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Basic.lean:436]: Same here

File: FLT/Deformations/Algebra/InverseLimit/Topology.lean [hunk 23]
```diff
@@ -0,0 +1,111 @@
...
+variable {W : Type*} {M : ι → Type*} (maps : ∀ i, M i) [∀ i, FunLike (M i) W (G i)]
+variable (inverseSystemHom : InverseSystemHom G f maps)
+variable [TopologicalSpace W]
+variable (maps_cont : (i : ι) → Continuous (maps i))
+
+instance : TopologicalSpace (InverseLimit G f) := by
+  unfold InverseLimit
+  infer_instance
+
+omit [InverseSystem fun x1 x2 x3 ↦ ⇑(f x1 x2 x3)] [IsDirected ι fun x1 x2 ↦ x1 ≤ x2] in
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Topology.lean:32]: You might want to do the same experiment on this file. Do you really need these assumptions? If you only need them in a few places, is it easier to add them rather than omit them?

File: FLT/Deformations/Algebra/InverseLimit/Topology.lean [hunk 24]
```diff
@@ -0,0 +1,111 @@
...
+  unfold InverseLimit
+  continuity
+
+section ToComponent
+
+omit [InverseSystem fun x1 x2 x3 ↦ ⇑(f x1 x2 x3)] [IsDirected ι fun x1 x2 ↦ x1 ≤ x2] in
+@[fun_prop, continuity]
+lemma toComponent_continuous (i : ι) : Continuous (toComponent G f i) := by
+  unfold InverseLimit
+  unfold toComponent
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Topology.lean:44]: You might want to write `toComponent_def` as well?

File: FLT/Deformations/Algebra/InverseLimit/Topology.lean [hunk 25]
```diff
@@ -0,0 +1,111 @@
...
+
+end ToComponent
+
+section Maps
+
+omit [InverseSystem fun x1 x2 x3 ↦ ⇑(f x1 x2 x3)] [IsDirected ι fun x1 x2 ↦ x1 ≤ x2] in
+@[fun_prop, continuity]
+lemma lift_continuous (maps_cont : ∀ i, Continuous (maps i)) :
+    Continuous (lift G f maps inverseSystemHom) := by
+  unfold InverseLimit
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Topology.lean:57]: `rw [InverseLimit_def]` etc

**Review by kbuzzard — APPROVED** [review]
This looks great, thanks! I've made a lot of little comments, they should all hopefully be easy to deal with. Sorry that CI is now making you do some extra work!

File: FLT/Deformations/Algebra/InverseLimit/Topology.lean [hunk 26]
```diff
@@ -0,0 +1,111 @@
...
+namespace InverseLimit
+
+variable {W : Type*} {M : ι → Type*} (maps : ∀ i, M i) [∀ i, FunLike (M i) W (G i)]
+variable (inverseSystemHom : InverseSystemHom G f maps)
+variable [TopologicalSpace W]
+variable (maps_cont : (i : ι) → Continuous (maps i))
+
+instance : TopologicalSpace (InverseLimit G f) := by
+  unfold InverseLimit
+  infer_instance
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Topology.lean:30]: You can use `inferInstanceAs` to save you from unfolding.

File: FLT/Deformations/Algebra/InverseLimit/Topology.lean [hunk 27]
```diff
@@ -0,0 +1,111 @@
...
+section Maps
+
+omit [InverseSystem fun x1 x2 x3 ↦ ⇑(f x1 x2 x3)] [IsDirected ι fun x1 x2 ↦ x1 ≤ x2] in
+@[fun_prop, continuity]
+lemma lift_continuous (maps_cont : ∀ i, Continuous (maps i)) :
+    Continuous (lift G f maps inverseSystemHom) := by
+  unfold InverseLimit
+  unfold lift
+  suffices Continuous fun w ↦ (fun i ↦ maps i w) by continuity
+  continuity
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Topology.lean:60]: Is `fun_prop` any better?

File: FLT/Deformations/Algebra/InverseLimit/Topology.lean [hunk 28]
```diff
@@ -0,0 +1,111 @@
...
+
+instance [∀ i, Group (G i)] [∀ i j h, MonoidHomClass (T h) (G j) (G i)]
+    [∀ i : ι, IsTopologicalGroup (G i)] :
+    IsTopologicalGroup (InverseLimit G f) := by
+  unfold InverseLimit
+  let S : Subgroup ((i : ι) → G i) := {
+    carrier := { x | ∀ (i j : ι) (h : i ≤ j), (f i j h) (x j) = x i }
+    mul_mem' := by aesop
+    one_mem' := by aesop
+    inv_mem' := by aesop
```
Comment (kbuzzard) [inline FLT/Deformations/Algebra/InverseLimit/Topology.lean:74]: You might want to look at all these aesop proofs to find out if they're just rfl or something.

File: FLT/Deformations/Algebra/InverseLimit/Topology.lean (hunk 27 above)
Comment (javierlcontreras) [reply FLT/Deformations/Algebra/InverseLimit/Topology.lean:60]: yes!

File: FLT/Deformations/Algebra/InverseLimit/Topology.lean (hunk 28 above)
Comment (javierlcontreras) [reply FLT/Deformations/Algebra/InverseLimit/Topology.lean:74]: They are not (they are all solved with a ext/intro and a simp [...])

**Comment by javierlcontreras** [comment]
I think I don't have permission to merge this into main, could someone do this for me? Thanks :)

**Comment by kbuzzard** [comment]
Can you fix the linting error @javierlcontreras ?
```
/- The `unusedArguments` linter reports:
UNUSED ARGUMENTS. -/
-- FLT.Deformations.Algebra.InverseLimit.Topology
././././FLT/Deformations/Algebra/InverseLimit/Topology.lean:85:1: error: @InverseLimit.instIsTopologicalModuleOfIsTopologicalRing argument 11 inst✝⁴ : IsTopologicalRing
  R
```

**Comment by javierlcontreras** [comment]
> Can you fix the linting error @javierlcontreras ? This can't be merged until it passes CI.
> 
> ```
> /- The `unusedArguments` linter reports:
> UNUSED ARGUMENTS. -/
> -- FLT.Deformations.Algebra.InverseLimit.Topology
> ././././FLT/Deformations/Algebra/InverseLimit/Topology.lean:85:1: error: 
> @InverseLimit.instIsTopologicalModuleOfIsTopologicalRing argument 11 inst✝⁴ : IsTopologicalRing R
> ```

I don't see any lint (nor CI) errors on the latest commit. Also the instance you refer to already doesn't have that unusedArgument in the latest commit. Am I missing something? @kbuzzard

**Comment by kbuzzard** [comment]
Oh no sorry, it's all looking good now. Thanks! I need to worry about a lecture I'm giving tomorrow but will get back to this on Wed.
